US07820704B2
(2-chloro-pyrimidin-4-yl)-cyclopentylamine (100 mg, 0.51 mmol) was reacted with (4-benzyloxyphenyl)boronic acid (173 mg, 0.76 mmol), tetrakis(triphenylphosphino)palladium (44 mg, 0.04 mmol), and aq. 2 N sodium carbonate (1.01 mmol, 0.51 mL) as described in general procedure Q, method Q2, to give 164 mg of [2-(4-benzyloxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amine. Purification was carried out by silica gel chromatography eluting with hexanes/ethyl acetate 4:1 then 1:1. LCMS m/z: 346 (M+1)+.

reactant | (2-chloro-pyrimidin-4-yl)-cyclopentylamine | 0.51 mmol, 100 mg | ClC1=NC=CC(=N1)NC1CCCC1 | C9H12ClN3
reactant | (4-benzyloxyphenyl)boronic acid | 0.76 mmol, 173 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | sodium carbonate | 1.01 mmol, 2 N, 0.51 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphino)palladium | 0.04 mmol, 44 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | [2-(4-benzyloxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amine | 164 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=CC(=N1)NC1CCCC1 | C22H23N3O
